US06407121B1
A mixture of 0.917 g of 2-amino-5-(2-bromoethyl)-4-(4-fluorophenyl)thiazole hydrobromide, 0.441 g of 4-(5-fluoro-1H-benzotriazol-1-yl)piperidine, 1 ml of diisopropylethylamine and 4 ml of methanol was stirred with heating under reflux for 12 hours. After the reaction mixture was cooled to room temperature, ethanol was added thereto and the crystals were collected by filtration. The crystals were recrystallized from chloroform-ethanol to obtain 0.56 g of 2-amino-4-(4-fluorophenyl)-5-[2-[4-(5-fluoro-1H-benzotriazol-1-yl)piperidin-1-yl]ethyl]thiazole.

reactant | 2-amino-5-(2-bromoethyl)-4-(4-fluorophenyl)thiazole hydrobromide | 0.917 g | Br.NC=1SC(=C(N1)C1=CC=C(C=C1)F)CCBr
reactant | 4-(5-fluoro-1H-benzotriazol-1-yl)piperidine | 0.441 g | FC1=CC2=C(N(N=N2)C2CCNCC2)C=C1 | C11H13FN4
reactant | diisopropylethylamine | 1 ml | C(C)(C)N(CC)C(C)C | C8H19N
reactant | methanol | 4 ml | CO | CH4O
solvent | ethanol | C(C)O | C2H6O
product | 2-amino-4-(4-fluorophenyl)-5-[2-[4-(5-fluoro-1H-benzotriazol-1-yl)piperidin-1-yl]ethyl]thiazole | 0.56 g | NC=1SC(=C(N1)C1=CC=C(C=C1)F)CCN1CCC(CC1)N1N=NC2=C1C=CC(=C2)F | C22H22F2N6S
